US06458814B1
b) (±)-3-Phenyl-4-[4-[[[4-(pyridin-2-yl)amino-1-butyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoic acid
To a solution of ethyl (±)-3-phenyl-4-[4-[[[4-(pyridin-2-yl)amino-1-butyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoate (197 mg, 0.44 mmole) in 1:1 THF/H2O (4 mL) was added 1.0 N LiOH (0.66 mL, 0.66 mmole). After 24 hr, the mixture was washed with Et2O (2×2 mL), and the pH of the aqueous layer was adjusted to 6 using 10% HCl. The solution was chromatographed on a C-18 Mega Bond Elut® column (50 mL H2O then 50 mL 20% CH3CN/H2O). Fractions containing the product were pooled and lyophilized to give the title compound (154 mg, 83%) as a white powder: MS (ES) m/e 423 (M+H)+. Anal. Calcd for C23H26N4O4.0.75 H2O: C, 63.36; H, 6.36; N, 12.85. Found: C, 63.55; H, 6.27; N, 12.50.

reactant | ethyl (±)-3-phenyl-4-[4-[[[4-(pyridin-2-yl)amino-1-butyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoate | 0.44 mmole, 197 mg | C1(=CC=CC=C1)C(CC(=O)OCC)CC=1OC=C(N1)C(=O)NCCCCNC1=NC=CC=C1 | C25H30N4O4
reactant | LiOH | 0.66 mmole, 1.0 N, 0.66 mL | [Li+].[OH-]
solvent | THF H2O | 4 mL | C1CCOC1.O
product | (±)-3-Phenyl-4-[4-[[[4-(pyridin-2-yl)amino-1-butyl]amino]carbonyl]-1,3-oxazol-2-yl]butanoic acid | 154 mg, 83% | C1(=CC=CC=C1)C(CC(=O)O)CC=1OC=C(N1)C(=O)NCCCCNC1=NC=CC=C1 | C23H26N4O4
